Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fall, hypoglycemia
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
As per HPI by Dr. ___ in note dated ___:
___ yo woman w/ history of recurrent syncope, HTN,
osteoporosis, s/p ORIF of bilateral femurs (most recently
hospitalized in ___ ___/b R tib/fib fracture and
underwent intramedullary nailing of R femur on ___ presenting
with fall, found to have hypoglycemia.

History obtained from pt's daughter ___ given her significant
dementia at baseline.

Daughter states she was in her OSH until 3 days prior to
admission when she c/o feeling "hot" and flushed.  She denied 
any
fevers/chills, urinary symptoms, cough, SOB, or abdominal pain. 
Recently was discharged from ___ and had good PO
intake at home.  Daughter states she was recently given
glucometer to test her mother's BG but was unable to get test
strips as these were not covered by her insurance.

At 3AM the morning of presentation, ___ states that she heard a
thud from her mother's room, and found her on the floor in a
puddle of water.  Her mother's mental status was "off" and she
was c/o some R shoulder pain.  As her MS did not clear for
several hours, EMS was called.  When EMS arrived, they found 
that
she was confused with FSBG of 56.  She received glucose with
return to baseline MS.

___ note, pt was found to be quite hypoglycemic to the 20___-30___
during her last hospitalization.  Seen by the Med Consult team
who felt that her hypoglycemia was likely due to poor PO intake
and decreased gluconeogenesis.  Metoprolol was held for
hypotension and hypoglycemia.  Both issues had resolved on
discharge.

On arrival to the ED, pt afebrile and VSS.
Her FSBG was initially 94 on arrival but then decreased to 36
over 2 hours.  D50 was administered again with improvement of
FSBG's to 178. 
Labs otherwise notable for largely baseline CBC and wnl CMP.
Trauma w/u revealed R clavicle fracture with some anterior
displacement of the proximal segment.
Pt admitted to medicine for further w/u and management of
persistent hypoglycemia.

ROS:  Rest of 10-point ROS reviewed and is negative except as
noted above."
 
Past Medical History:
-s/p ORIF of bilateral proximal femur  
-osteoporosis  
-depression  
-pernicious anemia/malnutrition  
-anemia  
-chronic constipation  
-HTN  
-h/o syncope  
-hx of prior surgery for gastric ulcers
 
Social History:
___
Family History:
Father with MI in ___.
 
Physical Exam:
Admission Exam:
VITALS: 97.7PO 136 / 76L Lying 78 22 96 RA 
GENERAL: elderly F, laying in bed, in NAD
EYES: no scleral icterus, no conjunctival injection
ENT: MMM, clear OP, hard of hearing
NECK: Supple, no appreciable LAD
RESP: Diminished breath sounds b/l, no w/r/r, pursed lip
breathing (chronic per daughter)
CV: ___, no m/r/g
GI: Soft, NT/ND, normoactive BS
GU: no foley
EXT: R leg with more edema than L leg, chronic per daughter.  
WWP
MSK: TTP over R clavicle, R arm in sling, moving bilateral
fingers and arm. 
SKIN: hypopigmented abrasion over R anterior shin, some
hyperpigmentation over b/l ___
NEURO: AOx1.5 (does not know name of hospital, reason for
hospitalization or date), moving all extremities purposefully
PSYCH: pleasant, normal mood and affect

Discharge Exam:
***
 
Pertinent Results:
ADMISSION LABS:

___ 07:55AM BLOOD WBC-9.3 RBC-4.10 Hgb-10.5* Hct-35.3 
MCV-86 MCH-25.6* MCHC-29.7* RDW-15.3 RDWSD-48.3* Plt ___
___ 07:55AM BLOOD Glucose-83 UreaN-17 Creat-0.5 Na-143 
K-3.9 Cl-104 HCO3-27 AnGap-12
___ 06:18PM BLOOD Albumin-3.5 Calcium-9.0 Mg-1.9
___ 07:55AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
TSH 0.72
AM cortisol 23.9

MICRO:
Blood culture ___: pending
Urine culture ___:
CITROBACTER AMALONATICUS
                             |   
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------     8 R
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

IMAGING: 
CXR ___:
1.  Limited exam due to patient position.  Similar bibasilar
opacities as on prior studies likely representing atelectasis. 
Underlying infection is difficult to exclude. 
2.  Distal right clavicle fracture with the proximal fragment
displaced and angulated superiorly.  The right AC joint appears
intact. 

Glenohumeral ___:
1.  Distal right clavicle fracture with the proximal fragment
slightly angulated and displaced superiorly.  Intact right AC
joint. 
2.  Right hemithorax is evaluated separately. 

CT C-spine ___:
1. No acute fracture or traumatic malalignment. 
2. Bilateral edematous sternocleidomastoid muscles with soft
tissue stranding more severe on the right could be related to
trauma. 
3. Multilevel degenerative changes are most severe C4-5, C5-6,
and C6-7. 

CT head w/out Contrast ___:
1. No acute intracranial abnormalities. 
2. No calvarial fractures. 

DISCHARGE LABS:
***
 
Brief Hospital Course:
___ yo woman w/ history of recurrent syncope, HTN, osteoporosis, 
s/p ORIF of bilateral femurs, presenting after a fall, found to 
have recurrent hypoglycemia.

# Hypoglycemia
The patient has a history of recurrent hypoglycemia. She was 
seen by Med Consult last admission who felt that her 
hypoglycemia may be due to poor PO intake and low glycogen 
reserves/impaired gluconeogenesis.  Pt does not have hx of DM 
and does not take any hypoglycemic.  Spoke with daughter ___ 
who said family friend
at ___ who is an Endocrinologist felt hypoglycemia may be 
due to prior gastric resection for PUD.  On review of 
literature, there appears to be a condition called noninsulinoma 
pancreatogenous hypoglycemia syndrome which sometimes occurs 
after gastric surgery (d/t beta cell hypertrophy) but is 
apparently rarer than insulinoma.  
Endocrinology was consulted. The differential for her 
hypoglycemia included endogenous vs. exogenous insulin-driven 
process, insufficient substrate (starvation, liver disease), 
accelerated utilization (tumor, sepsis), adrenal insufficiency 
(essentially ruled out by am cortisol of 24). Other 
considerations in the setting of her prior gastric surgery and 
described hot flushes include dumping syndrome and 
neuroendocrine tumor.
She had a 72 hour fast, and her CBG did not drop below 50 for 
the entire fast. Thus, most likely she does not have an 
insulinoma or other insulin-hypersecretion state. Given the 
history of episodic hypoglycemia after boluses of 
carbohydrate-heavy foods (like ___ sweets), her presentation 
was most consistent with reactive
hypoglycemia. Nutrition was consulted to educate the patient and 
her daughter re: dietary strategies to treat reactive 
hypoglycemia - small frequent meals throughout the day, mixed 
meals (avoiding carb loads), avoiding foods with high glycemic 
index. The full panel of hypoglycemic labs are still pending. 
There is no need to check blood sugars routinely unless she has 
symptoms suggestive of hypoglycemia.  Even if BG is low, 
drinking juice would cause a rapid rise which would then result 
in a rebound decrease.  A1C done in ___ was normal, so no 
need for Metformin.  

# Citrobacter UTI
Pt denied urinary complaints initially. She had >100K CFUs of 
Citrobacter amalonaticus growing in urine culture. She has a 
history of pan-sensitive E.coli UTI in ___. Despite lack of 
symptoms will treat given her recent possible syncope/fall, 
which could be due to hypoglycemia but there may be some 
component from
infection. She was initially treated with ceftriaxone, however 
sensitivities
showed that Citrobacter was resistant to CTX so she was switched 
to nitrofurantoin to complete a 5 day course. 

# Fall from Standing
# Possible Syncope
Pt found down near her bed after having presumed syncopal event. 
 Most likely trigger was hypoglycemic episode.  However, pt with 
long history of syncopal events with prodromal symptoms that 
sound very vasovagal in nature. UTI may be contributing (in ___ 
she had a fall/syncopal episode and was found to have an E.coli
UTI). Telemetry for >48 hours has been unremarkable. 
Orthostatics vital signs were normal. ___ was consulted and 
recommended rehab.

# R Clavicle Fracture
Pt with minimally displaced clavicular fracture found on x-ray. 
This was discussed with orthopedics. She should follow up in 
their clinic ___ weeks after discharge. They recommended that 
she keep the RUE in sling for comfort only - otherwise she is 
able to participate in any & all weight-bearing activities as 
tolerated. Her pain was consulted with Tylenol, tramadol prn 
pain.  

Chronic Problems:
# Osteoporosis: continued home calcium, calcitriol, vitamins. 
She may benefit from a DEXA scan as an outpatient, but her PCP 
can discuss this with her and her family.  
# Dementia: ___ protocol, continued home Donepezil, remeron,
trazodone prn
# Hx of gastric ulcer: continued PPI
# HTN: hold homed metoprolol
# Glaucoma: continued home eye gtts
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Calcitriol 0.25 mcg PO DAILY 
3. Donepezil 5 mg PO QHS 
4. Fish Oil (Omega 3) 1000 mg PO DAILY 
5. FoLIC Acid 1 mg PO DAILY 
6. Mirtazapine 15 mg PO QHS 
7. Pantoprazole 40 mg PO Q24H 
8. Acetaminophen 650 mg PO TID 
9. brimonidine 0.2 % ophthalmic (eye) BID 
10. Calcium Carbonate 500 mg PO TID 
11. Cyanocobalamin 1000 mcg IM/SC 1X/WEEK (MO) 
12. Docusate Sodium 100 mg PO BID 
13. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID 
14. Enoxaparin Sodium 40 mg SC Q24H VTE Prophylaxis -> Trauma 
15. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
16. Metoprolol Tartrate 12.5 mg PO BID 
17. Multivitamins 1 TAB PO DAILY 
18. Senna 17.2 mg PO HS 
19. TraZODone 25 mg PO HS:PRN insomnia 
20. Vitamin D 800 UNIT PO DAILY 

 
Discharge Medications:
1.  TraMADol 25 mg PO Q4H:PRN BREAKTHROUGH PAIN  
2.  Acetaminophen 650 mg PO TID  
3.  Aspirin 81 mg PO DAILY  
4.  brimonidine 0.2 % ophthalmic (eye) BID  
5.  Calcitriol 0.25 mcg PO DAILY  
6.  Calcium Carbonate 500 mg PO TID  
7.  Cyanocobalamin 1000 mcg IM/SC 1X/WEEK (MO)  
8.  Docusate Sodium 100 mg PO BID  
9.  Donepezil 5 mg PO QHS  
10.  Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID  
11.  Enoxaparin Sodium 40 mg SC Q24H VTE Prophylaxis -> Trauma  
12.  Fish Oil (Omega 3) 1000 mg PO DAILY  
13.  FoLIC Acid 1 mg PO DAILY  
14.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
15.  Metoprolol Tartrate 12.5 mg PO BID  
16.  Mirtazapine 15 mg PO QHS  
17.  Multivitamins 1 TAB PO DAILY  
18.  Pantoprazole 40 mg PO Q24H  
19.  Senna 17.2 mg PO HS  
20.  TraZODone 25 mg PO HS:PRN insomnia  
21.  Vitamin D 800 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
Discharge Diagnosis:
Reactive hypoglycemia 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
You were admitted to the hospital with low blood sugar 
(hypoglycemia).  This was a reaction to your body responding 
strongly to carbohydrates and sugars and having a rebound low 
blood sugar as a result.  This can be prevented by having low 
carb, frequent meals. 

We wish you the best in your recovery,
Your ___ team 
 
Followup Instructions:
___